Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP:
Name: ___ MD 
Location: ___ 
Address: ___ 
Phone: ___ 
Fax: ___ 

Primary Pulmonologist:
___ MD

___ patient is a ___ yo F with asthma/COPD with several 
hospitalizations for asthma exacerbation who presents with 
recurrent wheeze and severe SOB.  She states that she gets 
frequent asthma exacerbations with various triggers: cigarette 
smoke, weather, allergies, stress.  Her last hospitalization was 
in the beginning of ___ at ___.  She frequently 
receives steroids, but has never been to ICU or intubated.  Of 
note, she was given a short steroid course this weekend for 
developing asthma symptoms.

She reports SOB and wheeze ongoing for several weeks overall.  
She also reports productive cough.  She saw her pulmonologist 
who referred her for CT trachea to assess for TBM.  She went for 
CT here on ___ and after the test developed severe SOB and 
wheeze, and was referred to the ED.  In the ED she was given 
serial nebs for presumed asthma flare.  After overnight 
observation her symptoms had not improved.  She was given 
SoluMedrol and then Prednisone 60mg daily.  She is now 
hospitalized for further care.

On arrival she reports increased SOB and wheeze with cough.  She 
denies f/c, ST, HA.  She denies CP, n/v/d, abd pain, dysuria, 
leg pain or swelling.  She reports good adherence to her 
medications.  She denies recent travel
 
Past Medical History:
Asthma
COPD
Hypertension
Anxiety
 
Social History:
___
Family History:
Reviewed in detail.  Positive for asthma in multiple family 
members
 
Physical Exam:
VS: 99.1 PO 134 / 54 89 36->28 100 RA
Gen: sitting up, well appearing, talking in ___ sentences in 
mild discomfort
HEENT: MMM, OP clear, anicteric sclera
Neck: supple no LAD
HEart: tachy, regular, no mrg
Lungs: barrel chest, diminished BS with diffuse exp wheeze
Abd: soft NT/ND +BS no rebound or guarding
Ext: warm well perfused no pitting edema
Skin: no rashes noted
Neuro: no focal deficits
 
Pertinent Results:
___ 05:10PM BLOOD WBC-16.6* RBC-3.76* Hgb-11.0* Hct-33.9* 
MCV-90 MCH-29.3 MCHC-32.4 RDW-14.9 RDWSD-48.9* Plt ___
___ 05:10PM BLOOD Glucose-171* UreaN-11 Creat-0.7 Na-138 
K-4.4 Cl-102 HCO3-23 AnGap-17
___ 05:10PM BLOOD Calcium-9.3 Phos-2.3* Mg-2.2

CXR, my review: flat diaphragm, no focal infiltrate or edema

EKG, my review: NSR, nl axis and intervals, no acute ischemic 
changes

CT TRACHEA:
IMPRESSION:  
1.  Approximately 50% decrease in tracheal diameter at the 
sternal notch and 2 cm above the carina.  Significant narrowing 
of the bilateral upper lobe bronchi as well as both lower lobe 
basal trunk bronchi.  Moderate to severe air trapping, worst in 
the left lower lobe and posterior segment of the right upper 
lobe. 

 
Brief Hospital Course:
___ yo F with Asthma/COPD, presents with acute asthma 
exacerbation in setting of work up for tracheobronchomalacia.

Acute asthma exacerbation:
Possible Tracheobronchomalacia:
Significant wheeze and mild respiratory distress consistent with 
bronchospasm.  PF <200.  She has had severe chronic asthma for 
sometime.  Reviewing CT trachea, there was luminal narrowing 
suggestive of TBM, which may be an underlying cause of her 
airway obstruction.  There is no evidence for PNA, though with 
productive ___ benefit from antibiotic therapy.  She was 
started on Prednisone 60mg daily and Azithromycin in addition to 
PPI.  The case was reviewed with her outpatient pulmonologist.  
IP was consulted to evaluate the CT finding and did not think 
she had TBM at this time.  They recommended further work up to 
include PFTs, sleep study, assessment for GERD, and ENT 
evaluation for vocal cord abnormalities. 

She eventually improved and was discharged to complete her 
course of Azithromycin and a short steroid taper.

Anxiety:
Continued Fluoxetine

Hypertension:
Stable.  She had been on amlodipine which has been held for 
hypotension.

 
Medications on Admission:
Advair 500/50 INH BID
Proair ___ puffs q4 prn
Montelukast 10mg daily
Fluoxetine 10mg daily
Loratidine 10mg daily
 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 2 Doses 
take ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
2.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
3.  PredniSONE 60 mg PO DAILY 
taper as directed 
Tapered dose - DOWN 
RX *prednisone 20 mg ___ tablet(s) by mouth once a day Disp 
#*21 Tablet Refills:*0 
4.  Albuterol Inhaler ___ PUFF IH Q4H sob 
please use 6 times per day until your acute symptoms improve  
5.  FLUoxetine 10 mg PO DAILY  
6.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
7.  Loratadine 10 mg PO DAILY  
8.  Montelukast 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute asthma exacerbation
Tracheal stenosis
Hypertension
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with an asthma flare requiring steroids and 
antibiotics.  You were also evaluated by our pulmonologists 
regarding your CT finding of a narrow trachea.  You will need to 
complete the steroid taper prescribed as well as your 
antibiotics, and follow up closely with your pulmonologist to 
have additional testing
 
Followup Instructions:
___